### ISSUE TITLE
`simp` does not match in expressions involving dependent function types

### ISSUE THREAD

**Issue by loefflerd** [leanprover/lean4#12478]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Apparently `simp` is not able to show that if `a = b` then `f a = f b` if `f` is an ordinary (non-dependent) function type, but is built up from dependent-function types (so it's not "obviously" non-dependent).

### Context

Spotted during PR review of code using Mathlib's `Function.update` (which supports dependent functions, but was being used for an ordinary function). 
- Original Mathlib PR: [#32959](https://github.com/leanprover-community/mathlib4/pull/32959#top) 
- Zulip discussion thread: [#mathlib4 > Simp fails to apply with &#96;Function.update&#96;](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Simp.20fails.20to.20apply.20with.20.60Function.2Eupdate.60/with/573889929)

### Steps to Reproduce

Code example:
```lean4
universe u v

variable {α : Type u} [DecidableEq α]

/-- Mathlib's `Function.update` allowing dependent functions
(copied from Mathlib.Logic.Function.Basic) -/
def dupdate {β : α → Type v}
    (f : ∀ a, β a) (a' : α) (v : β a') (a : α) : β a :=
  if h : a = a' then Eq.ndrec v h.symm else f a

theorem foo (f : Nat → Nat) (a b : Nat) (hab : a = b) :
    (dupdate f 0 1) a = (dupdate f 0 1) b := by
  simp only [hab] -- fails, but `rw [hab]` works

/-- Non-dependent version of `Function.update` -/
def ndupdate {β : Type v}
    (f : α → β) (a' : α) (v : β) (a : α) : β :=
  if a = a' then v else f a

theorem foo2 (f : Nat → Nat) (a b : Nat) (hab : a = b) :
    (ndupdate f 0 1) a = (ndupdate f 0 1) b := by
  simp only [hab] -- works
```

**Expected behavior:** The `simp only` in the proof of `foo` should close the goal.

**Actual behavior:** It doesn't match on the argument of `dupdate f 0 1` (but `rw [hab]` does match, and `simp only [hab]` works in `foo2` with the non-dependent version).

### Versions

Tested with Lean 4.28.0-rc1 and 4.29.0-nightly-2026-02-14 (identical behaviour in both).

### Additional Information

Quoting comment from Joachim Breitner (@nomeata) on Zulip:

> It's not a bug, at most a missing feature.
> 
> The component in question is probably the simp congruence theorem generation. I wonder if for functions where the dependency depends on some higher order argument, like here or in match statements, one could create specialized congr theorems for when that higher order function is actually constant.
> 
> But it's not a simple change, so don't hold your breath.
> 
> An issue to record the desires for this and to collect instances would be appreciated.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
